US06413938B1
5-Methoxy-1-(5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine
2-Chloro-5-methoxy-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole (0.320 g, 1.1 mmol) was dissolved in ethanol (15 mL) and isopropylamine (5 mL). The resulting mixture was heated in a sealed tube for three days, after which time it was concentrated in vacuo. The resulting product was purified by flash chromatography (9:0.5:0.5 CH2Cl2:ethyl acetate:methanol) to yield the title compound (18 mg, 5%) as a 1.5:1 mix of regioisomers by 1H NMR; MS (ES): m/z 322 (M+1); 1H NMR (DMSO-d6) δ: 7.13 (d, J=8.5 Hz, 0.4H), 7.03 (d, J=8.5, 0.6H), 6.85 (d, J=2.4 Hz, 0.6H), 6.76 (d, J=2.4 Hz, 0.4H), 6.62 (dd, 0.4H), 6.50 (dd, 0.6H), 5.67 (t, 1H), 5.28-5.19 (m, 1.5H), 4.37 (m, 1H), 3.73 (s, 3H), 1.40 (m, 3H), 1.23 (d, 6H).

reactant | 2-Chloro-5-methoxy-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 1.1 mmol, 0.320 g | ClC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)C)C=CC(=C2)OC | C13H15ClN2O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | isopropylamine | 5 mL | C(C)(C)N | C3H9N
product | 5-Methoxy-1-(5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 18 mg, 5% | COC1=CC2=C(N(C(=N2)NC(C)C)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)C=C1 | C16H23N3O4
